Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
depression
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms ___ is a ___ yo F with history of depression, self-harm, 
suicidal ideation presents to ED with suicidal ideation and 
concern for personal safety. Pt was seen in ED several weeks ago 
with SI and was admitted to ___. Pt states she had 
symptomatic improvement in ___ but over the past week has 
had decompensation of her mood. Last night, she was thinking 
about suicide and composing suicide note, and today came to ED 
as she feels unsafe by herself. She has no suicidal plan. She is 
currently in the process of establishing a therapist to see 
regularly. She has had insomnia and decreased appetite over the 
last 3 days.  
 In the ED, initial vitals were: 98.0 63 122/83 16 100% RA  
 - Exam in ED significant for patient crying/anxious, left arm 
with several small bruises though patient denies injury or 
abuse, or self-harm.  
 - Labs were significant for bland UA and normal CBC and chem7 
and negative serum tox screen.  
 - The patient was given 25mg hydroxyzine and 1mg Ativan.  
 Vitals prior to transfer were:  
 Today 19:36 0 97.9 63 122/81 18 100% RA  
 Upon arrival to the floor, patient is tearful and hesitant 
about going to ___ tomorrow since it is one hour away.  

 
Past Medical History:
Depression with previous h/o self-harm and SI 

PAST PSYCHIATRIC HISTORY:
Hospitalizations: 1 at ___ 2 weeks ago
Current treaters and treatment: none, has intake appointment at
outpatient psychiatry at ___ in 3 days
Medication and ECT trials: zoloft
Self-injury: past cutting, no SA
Harm to others: denies
Access to weapons: denies
 
 
Social History:
___
Family History:
Mother's side with anxiety
 
Physical Exam:
ADMISSION EXAM
==================

Vitals: T97.8 125/88 83 12 975%RA 51.8kg  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 Neck: Supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, left arm scattered 
bruising, no clubbing, cyanosis or edema  
 Neuro: CNII-XII intact, motor/sensatation intact grossly, gait 
deferred.

DISCHARGE EXAM
=================
Tc 97.9, Tm 97.9, BP 98-120/62-85, HR 60, RR 12, 98% RA
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
 Neck: Supple, JVP not elevated  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, left arm scattered 
bruising, no clubbing, cyanosis or edema  
 Neuro: CNII-XII intact, motor/sensatation intact grossly, gait 
normal.
 
Pertinent Results:
___ 07:05PM BLOOD WBC-7.3 RBC-4.27 Hgb-13.0 Hct-38.5 MCV-90 
MCH-30.4 MCHC-33.8 RDW-12.8 RDWSD-42.1 Plt ___
___ 07:05PM BLOOD Glucose-92 UreaN-14 Creat-0.8 Na-140 
K-3.8 Cl-101 HCO3-23 AnGap-20
___ 07:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
___ y/o female with a history of depression and SI who was 
recently hospitalized at ___ for depression who 
presented with SI, fear of self harm and depression. Patient was 
evaluated by psychiatry and placed on ___ with 1:1 
sitter. Her sertraline was increased to 50 mg daily. She was 
started on trazodone qHS prn insomnia. She was monitored in the 
hospital with a 1:1 sitter and was medically clear for transfer 
to a psychiatric facility. EKG was obtained and QTc was wnl. 
Patient complained of mild dizziness prior to transfer. Vital 
signs were stable. Symptoms could have been related to 
trazodone. She was encouraged to maintain adequate hydration.    


TRANSITIONAL ISSUES
======================
- patient will need to establish care with a therapist in ___ 
if plan is to remain in ___ after her hospitalization.  
- increased sertraline to 50 mg daily and started trazodone qHS 
prn insomnia
# CONTACT: ___ Father, Mother ___ 
___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 25 mg PO DAILY 

 
Discharge Medications:
1. Sertraline 50 mg PO DAILY 
2. TraZODone 25 mg PO QHS:PRN insomnia 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: depression, suicidal ideation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for your depression and you 
were evaluated by our psychiatrists. You were discharged to 
___ where you will get psychiatric care. 

We wish you the best,
Your ___ Team
 
Followup Instructions:
___